US08067426B2
Intermediate 38: 2-{[(1S)-1-Methylbutyl]oxy}-8-(methyloxy)-9-[5-(1-piperidinyl)pentyl]-9H-purin-6-amine
9-(5-Chloropentyl)-2-{[(1S)-1-methylbutyl]oxy}-8-(methyloxy)-9H-purin-6-amine (80 mg, 0.225 mmol), triethylamine (0.031 ml, 0.225 mmol) and piperidine (0.045 ml, 0.45 mmol) were suspended in DMF (3 ml) and the mixture heated to 70° C. for 18 hours. The solvent was removed and the residue partitioned between DCM (4 ml) and saturated sodium bicarbonate (4 ml). The aqueous phase was re-extracted with further DCM and the combined organic extracts were concentrated and the residue dissolved in 1:1 MeOH:DMSO (1 ml) and purified by MDAP (Method A). The product-containing fractions were combined and evaporated under a stream of nitrogen to give the title compound (47.2 mg).

reactant | 9-(5-Chloropentyl)-2-{[(1S)-1-methylbutyl]oxy}-8-(methyloxy)-9H-purin-6-amine | 0.225 mmol, 80 mg | ClCCCCCN1C2=NC(=NC(=C2N=C1OC)N)O[C@H](CCC)C | C16H26ClN5O2
reactant | triethylamine | 0.225 mmol, 0.031 ml | C(C)N(CC)CC | C6H15N
reactant | piperidine | 0.45 mmol, 0.045 ml | N1CCCCC1 | C5H11N
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 2-{[(1S)-1-Methylbutyl]oxy}-8-(methyloxy)-9-[5-(1-piperidinyl)pentyl]-9H-purin-6-amine | 47.2 mg | C[C@@H](CCC)OC1=NC(=C2N=C(N(C2=N1)CCCCCN1CCCCC1)OC)N | C21H36N6O2
